US09447044B2
Step A: 6-sec-butylsulfanyl-pyridine-2-carboxylic acid ethyl ester
6-Mercapto-pyridine-2-carboxylic acid ethyl ester (0.25 g, 1.3 mmol) was added with DMF (7 mL), and the mixture was cooled to 0° C. NaH (0.065 g, 1.56 mmol) was added thereto, and the mixture was stirred for 30 minutes. 2-Iodobutane (0.2 mL, 1.56 mmol) was added thereto, and the mixture was stirred at room temperature for 3 hours. The reactant was added with water and then extracted with EtOAc. The organic layer was separated, dried with MgSO4, and purified by column chromatography to obtain the title compound (0.17 g, 52%).

reactant | 6-Mercapto-pyridine-2-carboxylic acid ethyl ester | 1.3 mmol, 0.25 g | C(C)OC(=O)C1=NC(=CC=C1)S | C8H9NO2S
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | NaH | 1.56 mmol, 0.065 g | [H-].[Na+]
reactant | 2-Iodobutane | 1.56 mmol, 0.2 mL | IC(C)CC | C4H9I
solvent | water | O | H2O
product | 6-sec-butylsulfanyl-pyridine-2-carboxylic acid ethyl ester | 0.17 g, 52% | C(C)OC(=O)C1=NC(=CC=C1)SC(C)CC | C12H17NO2S
